### PR TITLE
[Merged by Bors] - feat(SetTheory/Surreal/Basic): add some lemmas for Surreal.mk

### PR DESCRIPTION
**Pull request by hwatheod**
add some lemmas for Surreal.mk

---
Split out of #14498 

This contains all the lemmas in #14278 plus a few more. I was unable to reopen that one (I think I messed something up by doing a force push), so I am creating a new one.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Surreal/Basic.lean [hunk 1]
```diff
@@ -301,6 +301,10 @@ instance : One Surreal :=
 instance : Inhabited Surreal :=
   ⟨0⟩
 
+lemma mk_eq_mk {x y : PGame.{u}} {hx hy} : mk x hx = mk y hy ↔ x ≈ y := Quotient.eq
```
Comment (semorrison) [inline Mathlib/SetTheory/Surreal/Basic.lean:304]: Aren't these in the wrong file? Nothing about surreals here.

File: Mathlib/SetTheory/Surreal/Basic.lean [hunk 2]
```diff
@@ -324,10 +328,32 @@ instance instLE : LE Surreal :=
...
+
 instance instLT : LT Surreal :=
   ⟨lift₂ (fun x y _ _ => x < y) fun _ _ _ _ hx hy => propext (lt_congr hx hy)⟩
 #align surreal.has_lt Surreal.instLT
 
+lemma mk_lt_mk {x y : PGame.{u}} {hx hy} : mk x hx < mk y hy ↔ x < y := Iff.rfl
+
+lemma zero_lt_mk {x : PGame.{u}} {hx} : 0 < mk x hx ↔ 0 < x := Iff.rfl
+
+/-- Same as moveLeft_lt, but for `Surreal` instead of `PGame` -/
```
Comment (semorrison) [inline Mathlib/SetTheory/Surreal/Basic.lean:341]:
```suggestion
/-- Same as `moveLeft_lt`, but for `Surreal` instead of `PGame` -/
```

File: Mathlib/SetTheory/Surreal/Basic.lean [hunk 3]
```diff
@@ -358,6 +384,14 @@ instance orderedAddCommGroup : OrderedAddCommGroup Surreal where
   nsmul := nsmulRec
   zsmul := zsmulRec
 
+lemma add_def {x y: PGame} (hx: x.Numeric) (hy: y.Numeric):
```
Comment (semorrison) [inline Mathlib/SetTheory/Surreal/Basic.lean:387]: Spaces before colons, please, throughout.

Comment (semorrison) [inline Mathlib/SetTheory/Surreal/Basic.lean:387]: These lemmas are all misnamed, I think. They will not actually let you rewrites `x + y` for `x y : Surreal`, which is what they lemma with this name must do. 

Suggest flipping sides and renaming `mk_add`, etc.

File: Mathlib/SetTheory/Surreal/Basic.lean [hunk 4]
```diff
@@ -358,6 +384,14 @@ instance orderedAddCommGroup : OrderedAddCommGroup Surreal where
...
+    Surreal.mk x hx + Surreal.mk y hy = Surreal.mk (x + y) (hx.add hy) := by rfl
+
+lemma sub_def {x y: PGame} (hx: x.Numeric) (hy: y.Numeric):
+    Surreal.mk x hx - Surreal.mk y hy = Surreal.mk (x - y) (hx.sub hy) := by rfl
+
+lemma zero_def : mk 0 numeric_zero = 0 := by rfl
```
Comment (semorrison) [inline Mathlib/SetTheory/Surreal/Basic.lean:393]: This one, if flipped, can keep its name.

File: Mathlib/SetTheory/Surreal/Basic.lean [hunk 5]
```diff
@@ -324,10 +328,32 @@ instance instLE : LE Surreal :=
...
+lemma mk_lt_mk {x y : PGame.{u}} {hx hy} : mk x hx < mk y hy ↔ x < y := Iff.rfl
+
+lemma zero_lt_mk {x : PGame.{u}} {hx} : 0 < mk x hx ↔ 0 < x := Iff.rfl
+
+/-- Same as moveLeft_lt, but for `Surreal` instead of `PGame` -/
+theorem mk_moveLeft_lt_mk {x : PGame} (o : Numeric x) (i) :
+    Surreal.mk (x.moveLeft i) (by
+      rw [numeric_def] at o
+      exact o.2.1 i
+    ) < Surreal.mk x o := by
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Surreal/Basic.lean:346]: This inner `by` is probably worth giving its own theorem. Presumably it would be `Numeric.moveLeft`?

Comment (eric-wieser) [reply Mathlib/SetTheory/Surreal/Basic.lean:346]: In fact, I think the theorem already exists :)

**Comment by semorrison** [comment]
bors merge
